US07138410B2
N-[4-(2-Thienyl)phenyl]-1-azabicyclo[2.2.2]octane-3-carboxamide hydrochloride
90 mg (0.26 mmol) of N-(4-bromophenyl)-1-azabicyclo[2.2.2]octane-3-carboxamide hydrochloride, 40 mg (0.31 mmol) of 2-thiopheneboronic acid, 190 mg (0.57 mmol) of cesium carbonate and 20 mg (0.03 mmol) of bis(diphenylphosphino)ferrocenepalladium(II) chloride are reacted in 1 ml of 1,2-dimethoxyethane by the general method. 14.1 mg (15% of theory) of the title compound are obtained.

reactant | N-(4-bromophenyl)-1-azabicyclo[2.2.2]octane-3-carboxamide hydrochloride | 0.26 mmol, 90 mg | Cl.BrC1=CC=C(C=C1)NC(=O)C1CN2CCC1CC2
reactant | 2-thiopheneboronic acid | 0.31 mmol, 40 mg | S1C(=CC=C1)B(O)O | C4H5BO2S
reactant | cesium carbonate | 0.57 mmol, 190 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,2-dimethoxyethane | 1 ml | COCCOC | C4H10O2
product | N-[4-(2-Thienyl)phenyl]-1-azabicyclo[2.2.2]octane-3-carboxamide hydrochloride | Cl.S1C(=CC=C1)C1=CC=C(C=C1)NC(=O)C1CN2CCC1CC2 | InChI=1S/C18H20N2OS.ClH/c21-18(16-12-20-9-7-13(16)8-10-20)19-15-5-3-14(4-6-15)17-2-1-11-22-17;/h1-6,11,13,16H,7-10,12H2,(H,19,21);1H
